US07479559B2
3-(5-Bromo-pyridin-2-yl)-pentan-3-ol
The title compounds were prepared using methyl-3-bromobenzoate, methyl-4-bromophenyl acetate, ethyl-5-bromo-2-carboxypyridine or ethyl-5-bromo-2-carboxypyridine and ethyl magnesium bromide with methylene chloride as solvent, respectively, but otherwise followed the procedure detailed for Preparation 36.

reactant | methyl-3-bromobenzoate | COC(C1=CC(=CC=C1)Br)=O | C8H7BrO2
reactant | methyl-4-bromophenyl acetate | C(C)(=O)OC1=C(C=C(C=C1)Br)C | C9H9BrO2
reactant | ethyl-5-bromo-2-carboxypyridine | C(C)C=1C(=NC=C(C1)Br)C(=O)O | C8H8BrNO2
reactant | ethyl magnesium bromide | C(C)[Mg]Br
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 3-(5-Bromo-pyridin-2-yl)-pentan-3-ol | BrC=1C=CC(=NC1)C(CC)(CC)O | C10H14BrNO
